US09034900B2
Step 1: ethyl 2-(cyclopropylmethoxy)acetate
Diazoacetic acid ethyl ester (80.00 g, 0.70 mol) was added dropwise to cyclopropanemethanol (60.66 g, 0.84 mol) and [Rh(Ac2O)2]2 (3.1 g, 7.02 mmol) in anhydrous CH2Cl2 (800 mL) at 0° C. The mixture was stirred at 0° C. for 30 min and at room temperature for 4 h. CH2Cl2 extractive work up and silica gel chromatography (PE:EA=100:1-50:1) gave the title compound (100 g, 90.4% yield) as a colorless oil. 1H NMR: (CDCl3, 400 MHz) δ 4.23-4.19 (m, 2H), 4.09 (s, 2H), 3.38-3.36 (m, 2H), 1.27 (t, J=7.2 Hz, 3H), 1.10-1.07 (m, 1H), 0.57-0.52 (m, 2H), 0.24-0.20 (m, 2H).

reactant | Diazoacetic acid ethyl ester | 0.70 mol, 80.00 g | C(C)OC(C=[N+]=[N-])=O | C4H6N2O2
reactant | cyclopropanemethanol | 0.84 mol, 60.66 g | C1(CC1)CO | C4H8O
reactant | EA | CC(OCC)=O | C4H8O2
solvent | CH2Cl2 | 800 mL | C(Cl)Cl | CH2Cl2
product | ethyl 2-(cyclopropylmethoxy)acetate | 100 g, 90.4% yield | C1(CC1)COCC(=O)OCC | C8H14O3
